US05364942
4-(Bromomethyl)-3-trifluoromethylbenzenesulphonyl chloride
64.6 g (0.25 mol) of 3-trifluoromethyl-4-methylbenzenesulphonyl chloride are taken up in 500 ml of carbon tetrachloride and, after addition of 44.5 g (0.25 mol) of N-bromosuccinimide and 0.4 g of ABN, the mixture is heated under reflux for 24 hours. After cooling, the solids are filtered off and the filtrate is freed from the solvent. Flash chromatography using petroleum ether/toluene (4:1), 50 μm particle size, gives 33.9 g (40% of theory) of the title compound.

reactant | 3-trifluoromethyl-4-methylbenzenesulphonyl chloride | 0.25 mol, 64.6 g | FC(C=1C=C(C=CC1C)S(=O)(=O)Cl)(F)F | C8H6ClF3O2S
reactant | N-bromosuccinimide | 0.25 mol, 44.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 500 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-(Bromomethyl)-3-trifluoromethylbenzenesulphonyl chloride | BrCC1=C(C=C(C=C1)S(=O)(=O)Cl)C(F)(F)F | C8H5BrClF3O2S
